US03984536
Preparation of an essentially homogeneous vinyl acetate/crotonic acid copolymer
Polymerization is terminated when the degree of polymerization reaches 85%, by the introduction of 4 ml of an aqueous solution containing 0.008 g of hydroquinone. The vinyl acetate which has not yet reacted is eliminated by distillation. The crotonic acid which has not yet reacted is eliminated by washing of the resulting beads with water.

reactant | hydroquinone | 0.008 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
product | vinyl acetate crotonic acid | C(C)(=O)OC=C.C(\C=C\C)(=O)O | 2C4H6O2
